US07138425B2
a) 2-(3-Aminophenyl)benzoxazole
3-Aminobenzoic acid (500 mg, 3.65 mmol) and 2-aminophenol (398 mg, 3.65 mmol) were mixed with polyphosphoric acid (5 ml). The reaction was heated to 200° C. for 4 h. The reaction mixture was slowly poured into ice water (100 ml) and the resulting mixture basified with solid sodium hydroxide. At pH5–6 the precipitate was filtered, washed with water and dried to give the subtitle compound, 625 mg (82%). 1H NMR (CDCl3) δ 7.78(m, 1H), 7.65(d, J=7.5 Hz, 1H) 7.59(m, 2H), 7.36(m, 3H), 6.86(dd, J=2.2, 7.9 Hz, 1H). MS 211 m/z (M+H)+.

reactant | 3-Aminobenzoic acid | 3.65 mmol, 500 mg | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | 2-aminophenol | 3.65 mmol, 398 mg | NC1=C(C=CC=C1)O | C6H7NO
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-(3-Aminophenyl)benzoxazole | NC=1C=C(C=CC1)C=1OC2=C(N1)C=CC=C2 | C13H10N2O
